US04018922
14.1 g of 2-trifluoromethyl-10-(3-chloropropyl)-phenothiazine were dissolved in 50 ml of methyl ethyl ketone and 6.14 g of sodium iodide, 4.15 g of triethylamine, then 10 g of 2-(4-heptyl-4-piperidyloxy)-ethanol dissolved in 50 ml of methyl ethyl ketone were successively added thereto. The mixture was refluxed with agitation for 40 hours and after cooling, the precipitate formed was removed by vacuum filtration. The organic solution was washed with an aqueous solution of sodium bicarbonate, then with water, dried and then concentrated. The said product was reacted with an ether solution of hydrogen chloride and the obtained precipitate was recovered by vacuum filtration and was crystallized from an ethanol ether mixture to obtain 7.8 g of 2-trifluoromethyl-10-[3-(4-heptyl-4-β-hydroxy-ethoxy-piperidino)-β-propyl]-phenothiazine hydrochloride as white crystals melting at 180° C and soluble in ethanol and insoluble in water and ether.

reactant | 2-trifluoromethyl-10-(3-chloropropyl)-phenothiazine | 14.1 g | FC(C1=CC=2N(C3=CC=CC=C3SC2C=C1)CCCCl)(F)F | C16H13ClF3NS
reactant | triethylamine | 4.15 g | C(C)N(CC)CC | C6H15N
reactant | 2-(4-heptyl-4-piperidyloxy)-ethanol | 10 g | C(CCCCCC)C1(CCNCC1)OCCO | C14H29NO2
solvent | methyl ethyl ketone | 50 ml | C(C)C(=O)C | C4H8O
solvent | sodium iodide | 6.14 g | [I-].[Na+]
solvent | methyl ethyl ketone | 50 ml | C(C)C(=O)C | C4H8O
product | 2-trifluoromethyl-10-[3-(4-heptyl-4-β-hydroxy-ethoxy-piperidino)-β-propyl]-phenothiazine hydrochloride | 7.8 g | Cl.FC(C1=CC=2N(C3=CC=CC=C3SC2C=C1)C(C)CN1CCC(CC1)(OCCO)CCCCCCC)(F)F | InChI=1S/C30H41F3N2O2S.ClH/c1-3-4-5-6-9-14-29(37-20-19-36)15-17-34(18-16-29)22-23(2)35-25-10-7-8-11-27(25)38-28-13-12-24(21-26(28)35)30(31,32)33;/h7-8,10-13,21,23,36H,3-6,9,14-20,22H2,1-2H3;1H
